US07576099B2
2-Chloro-4-(2-cyclopropylethynyl)benzoic acid
A mixture of methyl 2-chloro-4-(2-cyclopropylethynyl)benzoate (310 mg, 0.0013 mol), 2N aq. NaOH (3.0 mL), THF (5 mL), and MeOH (5 mL) was stirred at rt for 5 h. The mixture was concentrated under vacuum and the residue was treated with water and acidified with 1N HCl to pH 2-3, and extracted with EtOAc. The organic layer was washed with brine, dried (Na2SO4), filtered and concentrated under vacuum to give the product (270 mg, 93%) as a yellow solid. LC-MS: 3.18 min, 218.9 & 220.9 (M−1).

reactant | methyl 2-chloro-4-(2-cyclopropylethynyl)benzoate | 0.0013 mol, 310 mg | ClC1=C(C(=O)OC)C=CC(=C1)C#CC1CC1 | C13H11ClO2
reactant | NaOH | 2N, 3.0 mL | [OH-].[Na+]
reactant | THF | 5 mL | C1CCOC1 | C4H8O
solvent | MeOH | 5 mL | CO | CH4O
product | 2-Chloro-4-(2-cyclopropylethynyl)benzoic acid | 270 mg, 93% | ClC1=C(C(=O)O)C=CC(=C1)C#CC1CC1 | C12H9ClO2
